US07705025B2
5-[3-Fluoro-4-(2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to General Procedure D in 6 mL DMF using 4-(5-Cyano-thiophen-2-yl)-2-fluoro-benzoic acid (248 mg, 1.0 mmol), EDC-HCl (287 mg, 1.5 mmol), HOBt (203 mg, 1.5 mmol), DIEA (0.43 mL, 2.5 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (131 mg, 0.85 mmol) to give the title compound (30 mg, 10% yield). MS (ES+) 384.2 (M+H)+

reactant | 4-(5-Cyano-thiophen-2-yl)-2-fluoro-benzoic acid | 1.0 mmol, 248 mg | C(#N)C1=CC=C(S1)C1=CC(=C(C(=O)O)C=C1)F | C12H6FNO2S
reactant | EDC-HCl | 1.5 mmol, 287 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.5 mmol, 203 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 2.5 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.85 mmol, 131 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-[3-Fluoro-4-(2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile | 30 mg, 10% yield | FC=1C=C(C=CC1C(=O)N1C(CCC1)CN1CCCC1)C1=CC=C(S1)C#N | C21H22FN3OS
